US09061981B2
(4-(Benzyloxy)phenyl)(2-fluorophenyl)methanone (1)
(2-Fluorophenyl)(4-hydroxyphenyl)methanone (9.0 g, 41.6 mmol), benzyl bromide (7.1 g, 41.6 mmol), and potassium carbonate (5.8 g, 41.6 mmol) were mixed in acetonitrile (60 mL). The resulting mixture was shaken at 70° C. overnight (15 h). After cooling to ambient temperature, EtOAc (200 mL) and water (100 mL) were added. The phases were separated, and the aqueous phase was further extracted with EtOAc (200 mL). The combined organic phase was washed with Na2CO3 (3×100 mL, saturated aqueous solution) and brine (100 mL), dried over Na2SO4 and filtered. Evaporation of the solvent under reduced pressure yielded 12.1 g, 95% as a slightly yellow solid. 1H-NMR (CDCl3) δ; 7.83 (dd, 2H, J=8.8 Hz and 1.2 Hz), 7.54-7.46 (m, 2H), 7.46-7.32 (m, 5H), 7.25 (m, 1H), 7.15 (m, 1H), 7.02 (d, 2H, J=9.0 Hz), 5.14 (s, 2H); 13C-NMR (CDCl3) δ 191.9, 163.1, 159.7 (d, J=251 Hz), 136.1, 132.5 (d, J=8.1 Hz), 132.3 (d, 2C, J=0.8 Hz), 130.4 (d, J=3.1 Hz), 130.4, 128.7 (2C), 128.3 (2C), 127.5, 127.5 (d, J=16.8 Hz), 124.2 (d, J=3.8 Hz), 116.1 (d, J=21.9 Hz), 114.6 (2C), 70.2.

reactant | (2-Fluorophenyl)(4-hydroxyphenyl)methanone | 41.6 mmol, 9.0 g | FC1=C(C=CC=C1)C(=O)C1=CC=C(C=C1)O | C13H9FO2
reactant | benzyl bromide | 41.6 mmol, 7.1 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 41.6 mmol, 5.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
solvent | water | 100 mL | O | H2O
product | (4-(Benzyloxy)phenyl)(2-fluorophenyl)methanone | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(=O)C1=C(C=CC=C1)F | C20H15FO2
